US05089046
To a solution of 5-methylcyclohexane-1,3-dione (1.79 g, 14.0 mmol) in 20 ml of methylene chloride containing triethylamine (2.90 ml, 20.8 mmol) is added, dropwise at 0°, a solution of 2-chloro-4-methylsulfonyloxybenzoyl chloride, prepared from the corresponding acid (3.50 g, 14.0 mmol) and thionyl chloride, in methylene chloride (10 ml). After the addition is complete, the mixture is stirred for another 30 min. at 0°, after which it is diluted with methylene chloride, washed, dried and evaporated to dryness. The crude enol ester is treated with triethylamine (3.97 ml, 2 eq.) and acetone cyanohydrin (0.4 ml) in 25 ml of acetonitrile. After stirring overnight at RT, the reaction mixture is concentrated and poured into water. The combined organic extracts are washed with dilute HCl and with brine, dried and evaporated to dryness. The crude product is crystallized from ether to give 2-(2-chloro-4-methylsulfonyloxybenzoyl)-5-methyl-cyclohexane-1,3-dione.

reactant | 5-methylcyclohexane-1,3-dione | 14.0 mmol, 1.79 g | CC1CC(CC(C1)=O)=O | C7H10O2
reactant | triethylamine | 20.8 mmol, 2.90 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-4-methylsulfonyloxybenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)OS(=O)(=O)C | C8H6Cl2O4S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 3.97 ml, 2 eq. | C(C)N(CC)CC | C6H15N
reactant | acetone cyanohydrin | 0.4 ml | CC(C#N)(O)C | C4H7NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 2-(2-chloro-4-methylsulfonyloxybenzoyl)-5-methyl-cyclohexane-1,3-dione | ClC1=C(C(=O)C2C(CC(CC2=O)C)=O)C=CC(=C1)OS(=O)(=O)C | C15H15ClO6S
